US04816178
3.29 g of 4-heptylbiphenylcarboxylic acid was added to 10 ml of benzene, and 2.36 g of PCl5 was added little by little under stirring at room temperature, followed by 4 hours of heat-refluxing. Thereafter, the solvent was distilled off to obtain 4-heptylbiphenylcarboxylic acid chloride.

reactant | 4-heptylbiphenylcarboxylic acid | 3.29 g | C(CCCCCC)C=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C20H24O2
reactant | PCl5 | 2.36 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 4-heptylbiphenylcarboxylic acid chloride | C(CCCCCC)C=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)Cl | C20H23ClO
